US05541032
Preparation of 4-methoxyphenacylpyridinium tetrafluoroborate
The title compound was prepared similarly to Example 2 from 4-methoxyphenacylpyridinium bromide and sodium tetrafluoroborate in a yield of 85%.

reactant | 4-methoxyphenacylpyridinium bromide | [Br-].COC1=CC=C(C(C[N+]2=CC=CC=C2)=O)C=C1
reactant | sodium tetrafluoroborate | F[B-](F)(F)F.[Na+]
product | 4-methoxyphenacylpyridinium tetrafluoroborate | yield of 85% | F[B-](F)(F)F.COC1=CC=C(C(C[N+]2=CC=CC=C2)=O)C=C1 | InChI=1S/C14H14NO2.BF4/c1-17-13-7-5-12(6-8-13)14(16)11-15-9-3-2-4-10-15;2-1(3,4)5/h2-10H,11H2,1H3;/q+1;-1
